* LED Subcircuits
.subckt LuxStar-1watt a c
* 06/2002 MrAl
d1 a c dx
.model dx d is=2e-17 n=3.40 RS=0.1 RL=1e6 cjo=100p
.ends
*
*
.SUBCKT LED-Nichia pos neg
*MrAl
VM pos 1 0
BX 1 2 v = -i(VM)*i(VM)*29.98
D1 2 neg DX
.MODEL DX D(IS=7.61384e-013 N=4.9954 RS=17.14)
.ENDS
